US07141583B2
(5S)-3-(4-Methylthiophenyl)-5-(imidazol-1-ylmethyl)oxazolidin-2-one
Sodium hydride (80% in oil, 23 mg, 0.77 mM) was stirred under nitrogen in N,N-dimethylformamide (5 ml), imidazole (52 mg, 0.77 mM) added, and stirring continued for 10 minutes. (5R)-3-(4-Methylthiophenyl)-5-methanesulfonyloxymethyloxazolidin-2-one (200 mg, 0.63 mM) was dissolved in N,N-dimethylformamide (5 ml), added to the above, and the mixture stirred 18 hours at ambient temperature. After diluting with water (30 ml), the mixture was extracted with ethyl acetate (30 ml), the extract washed with brine (25 ml), dried (magnesium sulfate) and evaporated. The residue was triturated with diethyl ether, and filtered to give the desired product (129 mg, mp 129–131°).

reactant | Sodium hydride | 0.77 mM, 23 mg | [H-].[Na+]
reactant | imidazole | 0.77 mM, 52 mg | N1C=NC=C1 | C3H4N2
reactant | (5R)-3-(4-Methylthiophenyl)-5-methanesulfonyloxymethyloxazolidin-2-one | 0.63 mM, 200 mg | CSC1=CC=C(C=C1)N1C(O[C@H](C1)COS(=O)(=O)C)=O | C12H15NO5S2
solvent | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
solvent | water | 30 ml | O | H2O
product | (5S)-3-(4-Methylthiophenyl)-5-(imidazol-1-ylmethyl)oxazolidin-2-one | 129 mg | CSC1=CC=C(C=C1)N1C(O[C@H](C1)CN1C=NC=C1)=O | C14H15N3O2S
